US08012976B2
1,2-Dimethyl-1H-imidazo[4,5-c]pyridine
The solution of N4-methylpyridine-3,4-diamine (2.5 g, 20.3 mmol) in acetic anhydride (25 mL) was refluxed overnight. Then acetic anhydride was evaporated under reduced pressure and 1 N hydrochloride acid was added. Then the mixture was extracted with dichloromethane (50 mL×3). The aqueous layer was neutralized with sodium bicarbonate, and extracted with dichloromethane (50 mL×3). The organic layers were concentrated to give the title compound (1.9 g, yield 64%). LC-MS (ESI) m/z: 148 (M+1)+. 1H-NMR (400 MHz, CDCl3) δ (ppm): 2.64 (s, 3H), 3.74 (s, 3H), 7.23-7.24 (d, J=5.2 Hz, 1H), 8.39-8.41 (d, J=5.2 Hz, 1H), 8.98 (s, 1H).

reactant | N4-methylpyridine-3,4-diamine | 20.3 mmol, 2.5 g | CNC1=C(C=NC=C1)N | C6H9N3
reactant | acetic anhydride | 25 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 1,2-Dimethyl-1H-imidazo[4,5-c]pyridine | 1.9 g, yield 64% | CN1C(=NC=2C=NC=CC21)C | C8H9N3
